US03969373
A solution of 3.36 g of 2-hydroxy-2-phenyl-4-[4-(2-carboxyethyl)phenyl]-3(2H)-furanone in 150 ml of methanol was heated under reflux under a nitrogen atmosphere for 17 hrs. The reaction mixture was evaporated and the residue was recrystallized from methylene chloride-petroleum ether to give 2.28 g (83%) of 2-methoxy-2-phenyl-4-[4-(2-carboxyethyl)phenyl]-3-(2H)-furanone as colorless crystals, m.p. 117°-120°C, after drying at 50°C for 1 hr. under vacuum.

reactant | 2-hydroxy-2-phenyl-4-[4-(2-carboxyethyl)phenyl]-3(2H)-furanone | 3.36 g | OC1(OC=C(C1=O)C1=CC=C(C=C1)CCC(=O)O)C1=CC=CC=C1 | C19H16O5
reactant | methanol | 150 ml | CO | CH4O
product | 2-methoxy-2-phenyl-4-[4-(2-carboxyethyl)phenyl]-3-(2H)-furanone | 2.28 g, 83% | COC1(OC=C(C1=O)C1=CC=C(C=C1)CCC(=O)O)C1=CC=CC=C1 | C20H18O5
